US08357679B2
tert-Butyl 4-(4-amino-3-fluorobenzoyl)piperazine-1-carboxylate (0.649 mmol, 210 mg) was stirred with dichloromethane (˜2 mL) and trifluoroacetic acid (˜0.5 mL) overnight. The mixture was purified by SCX chromatography to give the intermediate (4-amino-3-fluorophenyl)(piperazin-1-yl)methanone. 2-(4-(Bromomethyl)phenyl)-1,1,1,3,3,3-hexafluoropropan-2-ol (0.649 mmol, 219 mg), potassium carbonate (0.649 mmol, 90 mg) and acetonitrile (5 mL) were added to the intermediate (4-amino-3-fluorophenyl)(piperazin-1-yl)methanone and the mixture was stirred for 6 hours. The reaction mixture was concentrated under reduced pressure. The residue obtained was stirred in dichloromethane, filtered and the filtrate was purified by silica chromatography (eluting with dichloromethane increasing to ethyl acetate) to afford the title compound (46 mg).

reactant | tert-Butyl 4-(4-amino-3-fluorobenzoyl)piperazine-1-carboxylate | 0.649 mmol, 210 mg | NC1=C(C=C(C(=O)N2CCN(CC2)C(=O)OC(C)(C)C)C=C1)F | C16H22FN3O3
reactant | trifluoroacetic acid | ˜0.5 mL | FC(C(=O)O)(F)F | C2HF3O2
solvent | dichloromethane | ˜2 mL | ClCCl | CH2Cl2
product | (4-amino-3-fluorophenyl)(piperazin-1-yl)methanone | NC1=C(C=C(C=C1)C(=O)N1CCNCC1)F | C11H14FN3O
